US06506797B1
Methyl 3-(3-benzyloxycarbonyl-4-methoxyphenyl)-2,2-dimethylpropanoate
Benzyl 5-acetoxymethyl-2-methoxybenzoate (630 mg, 2.00 mmol), methyl trimethylsilyldimethylketeneacetal (730 mg, 4.02 mmol) and 25 ml of dehydrated methylene chloride were mixed and magnesium perchlorate (45 mg, 0.202 mmol) was added under an atmosphere of argon, which was stirred for 6 hours at room temperature. The reaction mixture was washed with water and with brine, then dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel chromatography (eluate n-hexane:ethyl acetate=8:1 v/v) to obtain 131 mg (18%) of the title compound as colorless crystals.

reactant | Benzyl 5-acetoxymethyl-2-methoxybenzoate | 2.00 mmol, 630 mg | C(C)(=O)OCC=1C=CC(=C(C(=O)OCC2=CC=CC=C2)C1)OC | C18H18O5
reactant | magnesium perchlorate | 0.202 mmol, 45 mg | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-(3-benzyloxycarbonyl-4-methoxyphenyl)-2,2-dimethylpropanoate | 131 mg, 18% | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1OC)CC(C(=O)OC)(C)C | C21H24O5
